US08217570B2
(4-b) Synthesis of 9,10-diphenyl-2-[4-(2,6-diphenylpyridine-4-yl)phenyl]anthracene (compound 4)
4-(4-Bromophenyl)-2,6-diphenylpyridine 4.2 g (11 mmol), 9,10-diphenylanthracene-2-boronic acid 4.9 g (13 mmol) and tetrakis(triphenylphosphine)palladium 0.21 g (0.22 mmol) were dissolved in 60 mL of 1,2-dimethoxyethane. A 2.0M sodium carbonate aqueous solution 30 mL was added thereto, and the solution was refluxed for 8 hours under argon atmosphere by heating. After finishing the reaction, the solution was filtered, and a solid matter obtained was washed with water, methanol and toluene to obtain 5.8 g (yield: 83%) of a greenish white solid matter. Mass spectral analysis of the above solid matter resulted in confirming that m/e was 635 versus a molecular weight of 635.26 and that it was the aimed compound 4.

reactant | 4-(4-Bromophenyl)-2,6-diphenylpyridine | 11 mmol, 4.2 g | BrC1=CC=C(C=C1)C1=CC(=NC(=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C23H16BrN
reactant | 9,10-diphenylanthracene-2-boronic acid | 13 mmol, 4.9 g | C1(=CC=CC=C1)C=1C2=CC=CC=C2C(=C2C=CC(=CC12)B(O)O)C1=CC=CC=C1 | C26H19BO2
reactant | sodium carbonate | 2.0M, 30 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 60 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.22 mmol, 0.21 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 9,10-diphenyl-2-[4-(2,6-diphenylpyridine-4-yl)phenyl]anthracene | 5.8 g, yield: 83% | C1(=CC=CC=C1)C=1C2=CC=CC=C2C(=C2C=CC(=CC12)C1=CC=C(C=C1)C1=CC(=NC(=C1)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C49H33N
